US07253286B2
N-{4-[2-(4-Carboxybutanoyl)aminopyridin-4-yl]oxyphenyl}-N′-(4-fluorophenyl)urea
N-{4-[2-(4-Ethoxycarbonylbutyryl)aminopyridin-4-yl]oxyphenyl}-N′-(4-fluorophenyl)urea (22 mg), 2N aqueous sodium hydroxide (1 ml), methanol (2 ml) and dimethylformamide (1 ml) were stirred together at 80° C. for 20 minutes. After returning the mixture to room temperature, 0.4 ml of 5N aqueous hydrochloric acid was added and the precipitated solid was filtered out to obtain 16 mg of the target substance as a white solid.

reactant | N-{4-[2-(4-Ethoxycarbonylbutyryl)aminopyridin-4-yl]oxyphenyl}-N′-(4-fluorophenyl)urea | 22 mg | C(C)OC(=O)CCCC(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C25H25FN4O5
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
reactant | methanol | 2 ml | CO | CH4O
reactant | hydrochloric acid | 5N, 0.4 ml | Cl | ClH
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-{4-[2-(4-Carboxybutanoyl)aminopyridin-4-yl]oxyphenyl}-N′-(4-fluorophenyl)urea | C(=O)(O)CCCC(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H21FN4O5
